US05290788
3-Ethyl-5-methoxy-2-propyl indole (2.92 g) in 15 ml of hydrogen bromide acetic acid solution was heated at 100° C. for 4 hours. The cooled solution was poured into an aqueous sodium bicarbonate solution (100 ml) and ethyl acetate with stirring. The separated organic layer was washed with water, dried over magnesium sulfate, and concentrated in vacuo. The crude product was chromatographed on silica gel using 30% ethyl acetate in n-hexanes as eluent to yield 3-ethyl-5-hydroxy-2-propyl indole (2.7 g).

reactant | 3-Ethyl-5-methoxy-2-propyl indole | 2.92 g | C(C)C1=C(NC2=CC=C(C=C12)OC)CCC | C14H19NO
reactant | sodium bicarbonate | 100 ml | C([O-])(O)=O.[Na+]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | hydrogen bromide acetic acid | 15 ml | C(C)(=O)O.Br
product | 3-ethyl-5-hydroxy-2-propyl indole | 2.7 g | C(C)C1=C(NC2=CC=C(C=C12)O)CCC | C13H17NO
